US04018915
To 71.0 g of benzylamine in 100 ml of benzene was added with stirring 25.0 g of tert-butyl chloroacetate over a period of 30 minutes, while maintaining the temperature at 30°-70° C. The reaction mixture was held at 70° C for an additional 1 hour. At the end of this period, the reaction mixture was taken up in 70 ml of 2N NaOH solution and 80 ml of benzene, transferred into a separatory funnel and well shaken. The benzene solution was separated, washed with water, dried over anhydrous sodium sulfate and filtered. After evaporation of benzene, the residue was distilled under reduced pressure to give 32.7 g (89.0 percent) of N-benzylglycine tert-butyl ester, B.P. 120°-125° C/ 2 mmHg.

reactant | benzylamine | 71.0 g | C(C1=CC=CC=C1)N | C7H9N
reactant | tert-butyl chloroacetate | 25.0 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | NaOH | 2N, 70 ml | [OH-].[Na+]
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N-benzylglycine tert-butyl ester | 32.7 g, 89.0 percent | C(C)(C)(C)OC(CNCC1=CC=CC=C1)=O | C13H19NO2
